US07084154B2
Ammonium hydroxide (conc., 20 mL) was added to 2-acetyl-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl chloride (2 g). The mixture was stirred at rt for 16 h. The ammonium hydroxide was evaporated under vacuum and hydrochloric acid (10%, 50 mL) was added to the residue. The mixture was heated at reflux for 4 h and the aqueous was evaporated under vacuum to afford 7-aminosulfonyl-1,2,3,4-tetrahydro-isoquinoline hydrochloride (1.5 g).

reactant | 2-acetyl-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl chloride | 2 g | C(C)(=O)N1CC2=CC(=CC=C2CC1)S(=O)(=O)Cl | C11H12ClNO3S
reactant | Ammonium hydroxide | 20 mL | [OH-].[NH4+]
product | 7-aminosulfonyl-1,2,3,4-tetrahydro-isoquinoline hydrochloride | 1.5 g | Cl.NS(=O)(=O)C1=CC=C2CCNCC2=C1 | InChI=1S/C9H12N2O2S.ClH/c10-14(12,13)9-2-1-7-3-4-11-6-8(7)5-9;/h1-2,5,11H,3-4,6H2,(H2,10,12,13);1H
